US07700583B2
2-Piperidin-1-yl-N-[4-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-phenyl]-acetamide
A solution of 2-chloro-N-[4-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-phenyl]-acetamide (40 mg, 0.115 mmol) in acetone (250 μl) was added to a mixture of piperidine (17.1 μl, 0.173 mmol) and DIPEA (40 μl, 0.229 mmol) in MeCN (250 μl). The resulting reaction mixture was heated and stirred in a microwave oven for 10 min. at 100° C. After cooling to room temperature the volatiles were removed in vacuo and the residue purified on a prep. Gilson HPLC. Pure fractions were collected, evaporated in vauco and dried at 50° C. for 16 hours affording 43.8 mg (75%) of the title compounds as a TFA salt.

reactant | 2-chloro-N-[4-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-phenyl]-acetamide | 0.115 mmol, 40 mg | ClCC(=O)NC1=CC=C(C=C1)C(=O)N1C2CC(CC(C1)(C2)C)(C)C | C19H25ClN2O2
reactant | piperidine | 0.173 mmol, 17.1 μl | N1CCCCC1 | C5H11N
reactant | DIPEA | 0.229 mmol, 40 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | acetone | 250 μl | CC(=O)C | C3H6O
solvent | MeCN | 250 μl | CC#N | C2H3N
product | 2-Piperidin-1-yl-N-[4-(1,3,3-trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-phenyl]-acetamide | 43.8 mg, 75% | N1(CCCCC1)CC(=O)NC1=CC=C(C=C1)C(=O)N1C2CC(CC(C1)(C2)C)(C)C | C24H35N3O2
